US04241072
A. N-(4-methyl-2-thiazolyl)-N-(2-dimethylaminoethyl)acetamide
The reaction is run under a nitrogen atmosphere. To a stirred solution of 31.2 g. (0.20 mole) of 2-acetamido-4-methylthiazole in 300 ml. of DMF is added 9.6 g. (0.20 mole) of a 50% suspension of sodium hydride in mineral oil. The reaction is stirred for 1/2 hour as the temperature spontaneously rises to 50° C. The reaction is cooled to 35° to 40° C. and a further 12.0 g. (0.25 mole) of sodium hydride suspension added followed by 36.0 g. (0.25 mole) of 2-dimethylaminoethyl chloride HCl, added portionwise for 10 to 15 minutes. The mixture is stirred at room temperature for about 1 hour and then at steam bath temperature for 20 hours. The tan mixture is cooled to ambient temperature and filtered to remove salts. The filtrate is concentrated under reduced pressure at steam bath temperature. This gives 46.4 g. of crude product as a brown oil (containing mineral oil (10.8 g.).

reactant | 2-acetamido-4-methylthiazole | 0.20 mole | C(C)(=O)NC=1SC=C(N1)C | C6H8N2OS
reactant | sodium hydride | [H-].[Na+]
reactant | sodium hydride | 0.25 mole | [H-].[Na+]
reactant | 2-dimethylaminoethyl chloride HCl | 0.25 mole | Cl.CN(CCCl)C
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(4-methyl-2-thiazolyl)-N-(2-dimethylaminoethyl)acetamide | CC=1N=C(SC1)N(C(C)=O)CCN(C)C | C10H17N3OS
